data/pmechdb/original/mc_train_fold0/raw/train.txt
C1=CC2=C(C(=C(N=C2C=C1)Cl)[N+](=O)[O-])[O-:10].[O:21]=[P:20](Cl)(Cl)Cl.CC[NH+](CC)CC>>C1=CC2=C(C(=C(N=C2C=C1)Cl)[N+](=O)[O-])[O:10][P:20]([O-:21])(Cl)(Cl)Cl.CC[NH+](CC)CC 10=20;20,21=21
CC(C1=CC=CC=C1)[C+:20](C)C.[Cl-:10]>>CC(C1=CC=CC=C1)[C:20](C)(C)[Cl:10] 10=20,
CC[NH2:10].[CH2:20]=[CH:21][C:22]#[NH+:23]>>CC[NH2+:10][CH2:20][CH:21]=[C:22]=[NH:23] 10=20;22,23=23;20,21=21,22
C[CH:20]([NH:10]C)[I:21]>>C[CH:20]=[NH+:10]C.[I-:21] 10=20;20,21=21
C[OH+:11][CH2:10]C[Si](C)(C)C>>C[OH:11].C[Si](C)(C)C[CH2+:10] 10,11=11
[H:20][O:21]S(=O)(=O)O.CCOC(C)[NH:10]C>>[H:20][NH+:10](C)C(C)OCC.OS(=O)(=O)[O-:21] 10=20;20,21=21
CO[C:11]1=[CH:10]OC=C1.O[S+:20](=O)=O>>CO[C+:11]1C=CO[CH:10]1[S:20](=O)(=O)O 10,11=10,20
C1CCC(CC1)C[C:20](=[O:21])C2=CC(=NN2CC[NH2:10])C3=CC=CC=C3.CCN(CC)CC>>C1CCC(CC1)C[C:20]2(C3=CC(=NN3CC[NH2+:10]2)C4=CC=CC=C4)[O-:21].CCN(CC)CC 10=20;20,21=21
[H:20][N+:21]1=CC=C(C=C1)N(C)C.CC(C)(C)[Si](C)(C)OC1CC(OC(C1)CC(CC=C)O)CC2=C(C(=CC=C2)OC)C(=O)OC(=[N:10]C3CCCCC3)NC4CCCCC4>>[H:20][N+:10](=C(NC1CCCCC1)OC(=O)C2=C(C=CC=C2OC)CC3CC(CC(O3)CC(CC=C)O)O[Si](C)(C)C(C)(C)C)C4CCCCC4.CN(C)C1=CC=[N:21]C=C1 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=C(O1)OC)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=C(O1)OC 10=20;20,21=21,22
COC(=O)C1=C2CCC=CC[N+:21]2=[CH:20]CC1.C[Si](C)(C)C[C:11]#[CH:10]>>COC(=O)C1=C2CCC=CC[N:21]2[CH:20](CC1)[CH:10]=[C+:11]C[Si](C)(C)C 10,11=10,20;20,21=21
[H:20][N:21](/N=C\1/CC2C(CCC3C2(CCC(C3(C)C)O[Si](C)(C)C(C)(C)C)C)C(C1C)C)S(=O)(=O)C4=CC=C(C=C4)C.[H:10][Na:11]>>[H:20][H:10].CC1C(/C(=N\[N-:21]S(=O)(=O)C2=CC=C(C=C2)C)/CC3C1CCC4C3(CCC(C4(C)C)O[Si](C)(C)C(C)(C)C)C)C.[Na+:11] 10,11=10,20;20,21=21
C[S:10](=[O:11])N>>C[S+:10](N)[O-:11] 10,11=11
[H:20][O:21]CCC(C)CCO.[C-:10](Br)(Br)Br.C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br>>[H:20][C:10](Br)(Br)Br.CC(CCO)CC[O-:21].C1=CC=C(C=C1)[P+](C2=CC=CC=C2)(C3=CC=CC=C3)Br 10=20;20,21=21
CC[CH:20]=[CH:21][C:22](=[O:23])CC.O[O-:10]>>CC[CH:20]([CH:21]=[C:22](CC)[O-:23])[O:10]O 10=20;22,23=23;20,21=21,22
[H:20][N+:21]1(CCN(CC1)C2=C(C=CC=C2)OCC)CCCCN3C(=O)C(=C(C(=N3)C)C(=O)C)N.C(=O)([O-:10])[O-].CN(C)C=O.[K+].[Br-]>>[H:20][O:10]C(=O)[O-].CCOC1=C(C=CC=C1)N2CC[N:21](CC2)CCCCN3C(=O)C(=C(C(=N3)C)C(=O)C)N.CN(C)C=O.[K+].[Br-] 10=20;20,21=21
[H:20][O:21][S+:22](C)C.[OH-:10]>>[H:20][OH:10].C[S:22](=[O:21])C 10=20;20,21=21,22
C[CH2:20][O:21][C:22]1=[O+:23]C(=CC(N1CC2=CC=CC=C2)C3=CC=CC=C3)C[Si](C)(C)C.CC[O:10][Al-](CC)(Cl)Cl>>CC[O+:10]([CH2:20]C)[Al-](CC)(Cl)Cl.C[Si](C)(C)CC1=CC(N([C:22](=[O:21])[O:23]1)CC2=CC=CC=C2)C3=CC=CC=C3 10=20;22,23=23;20,21=21,22
[H:20][O+:21](C)C1CC2C3CCC(C3(CCC2C4(C15CC5CC4)C)C)C.CC(=O)[O-:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].[K+]>>[H:20][O:10]C(=O)C.CC1CCC2C1(CCC3C2CC(C45C3(CCC4C5)C)[O:21]C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-].[K+] 10=20;20,21=21
[H:20][N+:21]1(CCCC1C(=O)[O-])C(C)(CCC2(C(=O)CCC2=O)C)O.C1CC([NH:10]C1)C(=O)[O-]>>[H:20][NH+:10]1CCCC1C(=O)[O-].CC1(C(=O)CCC1=O)CCC(C)([N:21]2CCCC2C(=O)[O-])O 10=20;20,21=21
[B:20](F)(F)F.CCC(C)C=[O:10].CCCC[Sn](CCCC)(CCCC)CC=C>>[B-:20]([O+:10]=CC(C)CC)(F)(F)F.CCCC[Sn](CCCC)(CCCC)CC=C 10=20,
[H:20][NH+:21](CCOCCO)C(C)(CCC(=O)C)O.CC(=O)[O-:10].C1=CC=CC=C1>>[H:20][O:10]C(=O)C.CC(=O)CCC(C)([NH:21]CCOCCO)O.C1=CC=CC=C1 10=20;20,21=21
[H:20][N+:21](CC)(C(C)C)C(C)C.CC1CC2C(C1OCC3=CC=CC=C3)CC4(C2(C5C=CC(C5CC4[OH+]S(=O)(=O)[CH2-:10])(C)C)O)C.[Cl-]>>[H:20][CH2:10]S(=O)(=O)[OH+]C1CC2C(C=CC2(C)C)C3(C1(CC4C3CC(C4OCC5=CC=CC=C5)C)C)O.CC[N:21](C(C)C)C(C)C.[Cl-] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C=CC2=C1C=CC=C2C(=O)C)C(C)C.[F-:10]>>[H:20][F:10].CC(C)[C:21]1=[CH:22]C=CC2=C1C=CC=C2C(=O)C 10=20;20,21=21,22
C[C:11](=[CH:10]C(=O)C)[O-:12].C(C(C(C(C([CH:20]=[O:21])O)O)O)O)O.C(=O)(O)O.[Na+]>>CC(=O)[CH:10]([CH:20](C(C(C(C(CO)O)O)O)O)[O-:21])[C:11](=[O:12])C.C(=O)(O)O.[Na+] 10,11=10,20;20,21=21;12=11
[H:20][N+:21]1(CCCC(C1(C2=CC=CC=C2)O)O)C(=O)OC.CC1=CC=C(C=C1)S(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)C1=CC=C(C=C1)C.COC(=O)[N:21]1CCCC(C1(C2=CC=CC=C2)O)O 10=20;20,21=21
C1=CC=C([CH:11]=[CH:10]1)C#N.[Fe-](Br)(Br)(Br)[Br+:21][Br:20]>>C1=C[CH:10]([CH+:11]C(=C1)C#N)[Br:20].[Fe-](Br)(Br)(Br)[Br:21] 10,11=10,20;20,21=21
C1=NC(=C(S1)[CH:20]=[O+:21]CCO)Cl.[OH2:10].C1CCOC1.C1COCCO1.[Cl-]>>C1=NC(=C(S1)[CH:20]([OH2+:10])[O:21]CCO)Cl.C1CCOC1.C1COCCO1.[Cl-] 10=20;20,21=21
[B-]([O+:21](C)[CH2:20][O:10]C)(F)(F)F.CCOCC.COC1=C2C(=CC=C1)C(=C(C=C2OC)CC(CCOCC3=CC=CC=C3)O)OC>>[B-]([O:21]C)(F)(F)F.C[O+:10]=[CH2:20].CCOCC.COC1=C2C(=CC=C1)C(=C(C=C2OC)CC(CCOCC3=CC=CC=C3)O)OC 10=20;20,21=21
CC[C:20](=[O:21])OCC.[OH-:10]>>CC[C:20]([OH:10])([O-:21])OCC 10=20;20,21=21
CCCC1CC(C[CH:20](C1OC(=[O:10])C)[O:21]S(=O)(=O)C2=CC=C(C=C2)C)C>>CCCC1CC(C[CH:20]2C1OC(=[O+:10]2)C)C.CC1=CC=C(C=C1)S(=O)(=O)[O-:21] 10=20;20,21=21
CCOC(=O)C12CCC(C1(C)C)C[C:20]2=[O:21].C1=CC=C(C=C1)C[NH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1>>CCOC(=O)C12CCC(C1(C)C)C[C:20]2([NH2+:10]CC3=CC=CC=C3)[O-:21].CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1 10=20;20,21=21
